US07425568B2
2-(3-Fluorophenyl)-1-(2-hydroxy-4-methoxyphenyl)ethanone (1.76 g) was dissolved in pyridine (88 ml). Piperidine (8.8 ml) and triethylorthoformate (88 ml) were added and the mixture was stirred at 120° C. for 3.5 hours. After pouring the mixture into water and acidification with conc. HCl the crude product was filtered. Purification by column chromatography using heptane-ethyl acetate (7:3) as an eluant afforded 3-(3-fluorophenyl)-7-methoxychromen-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.57 (s, 1H), 8.06 (d, 1H, J 8.9 Hz), 7.45-7.50 (m, 3H), 7.21-7.25 (m, 1H), 7.20 (d, 1H, J 2.4 Hz), 7.12 (dd, 1H, J 8.9, 2.4 Hz), 3.92 (s, 3H).

reactant | 2-(3-Fluorophenyl)-1-(2-hydroxy-4-methoxyphenyl)ethanone | 1.76 g | FC=1C=C(C=CC1)CC(=O)C1=C(C=C(C=C1)OC)O | C15H13FO3
reactant | Piperidine | 8.8 ml | N1CCCCC1 | C5H11N
reactant | triethylorthoformate | 88 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | HCl | Cl | ClH
solvent | pyridine | 88 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(3-fluorophenyl)-7-methoxychromen-4-one | FC=1C=C(C=CC1)C1=COC2=CC(=CC=C2C1=O)OC | C16H11FO3
